US07026326B2
Step E: 5-Chloro-6-[2-(isopropylamino-methyl)-pyrrolidin-1-yl]-1-methyl-3-naphthalen-2-yl-1H-[4,4′]bipyridinyl-2-one
A microwave tube was charged with 5,6-dichloro-1-methyl-3-naphthalen-2-yl-1H-[4,4′]bipyridinyl-2-one (0.300 g, 0.8 mmol), diisopropylethylamine (2 eq.) and isopropyl-pyrrolidin-2-ylmethyl-amine (1 eq). The heterogeneous suspension was heated in the microwave at 150° C. for 10 min. The resulting brownish suspension was dissolved in DCM and the crude product was purified by flash chromatography using an ISCO combiflash system with a mixture 97/3 DCM/MeOH to give the title compound. MS (ES+): 487 (M+H)+.

reactant | 5,6-dichloro-1-methyl-3-naphthalen-2-yl-1H-[4,4′]bipyridinyl-2-one | 0.8 mmol, 0.300 g | ClC=1C(=C(C(N(C1Cl)C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1 | C21H14Cl2N2O
reactant | diisopropylethylamine | 2 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isopropyl-pyrrolidin-2-ylmethyl-amine | 1 eq | C(C)(C)NCC1NCCC1 | C8H18N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-Chloro-6-[2-(isopropylamino-methyl)-pyrrolidin-1-yl]-1-methyl-3-naphthalen-2-yl-1H-[4,4′]bipyridinyl-2-one | ClC=1C(=C(C(N(C1N1C(CCC1)CNC(C)C)C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1 | C29H31ClN4O
